US05086062
5-Fluoro-6-[(chroman-3-yl)methylamino]benzoxazolin-2-one
In a manner similar to Example 34, starting with 5-fluoro-6-[(4-chloro-2H-chromene-3-yl)methylamino]benzoxazolin-2-one and hydrogenating it in the presence of triethylamine, the title compound was prepared: m.p. 223°-224° C.

reactant | 5-fluoro-6-[(4-chloro-2H-chromene-3-yl)methylamino]benzoxazolin-2-one | FC=1C(=CC2=C(NC(O2)=O)C1)NCC=1COC2=CC=CC=C2C1Cl | C17H12ClFN2O3
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 5-Fluoro-6-[(chroman-3-yl)methylamino]benzoxazolin-2-one | FC=1C(=CC2=C(NC(O2)=O)C1)NCC1COC2=CC=CC=C2C1 | C17H15FN2O3
